US07402595B2
2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid benzyl ester
A mixture of 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (150 mg), potassium carbonate (95 mg), benzylbromide (81 μl) and DMF (5 ml) was stirred at room temperature for 3 hrs. After diluting with water, the mixture was extracted with ether. The extract was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and ethyl acetate and n-hexane was added to the residue. The mixture was crystallized to give the title compound (152 mg, 84%).

reactant | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 150 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Br)=O | C23H16BrNO3
reactant | potassium carbonate | 95 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 81 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid benzyl ester | 152 mg, 84% | C(C1=CC=CC=C1)OC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=CC=C1 | C30H22BrNO3
